Current-mirror op-amp private fixture
.include p18_cmos_models_ss.inc
.subckt candidate vinp vinn vout vdd vb1 vb2 vss
* Current-mirror op-amp (K=2) with adaptive balance sink
* Unity-gain buffer front-end: 1.8 V, CL=2.5 pF external
* All MOSFET channel lengths = 0.4 um

* ----- Bias generation -----
IBIAS bp vss 3.5u
MPB  bp bp vdd vdd pmos w=1.0u l=0.4u
MPN  bn bp vdd vdd pmos w=1.0u l=0.4u
MNB  bn bn vss vss nmos w=2.0u l=0.4u

* Tail current source (~220 uA)
MT   ntail bn vss vss nmos w=126u l=0.4u

* ----- NMOS differential pair (vinp non-inverting) -----
M1   d1 vinp ntail vss nmos w=180u l=0.4u
M2   vout vinn ntail vss nmos w=180u l=0.4u

* ----- PMOS current-mirror load, K=2 -----
M3   d1 d1 vdd vdd pmos w=10u l=0.4u
M4   vout d1 vdd vdd pmos w=20u l=0.4u

* ----- Adaptive balance sink (~Iss/2 at DC) -----
* Rbal sets DC gate = bn; Cbal couples d1 to boost sink on SR-
* and reduce sink on SR+ (d1 falls when sourcing).
MBAL vout bbal vss vss nmos w=63u l=0.4u
Rbal bn bbal 5k
Cbal d1 bbal 180f

.ends candidate

VDD vdd 0 1.8
VB1 vb1 0 1.4
VB2 vb2 0 0.6
XDUT vinp vinn vout vdd vb1 vb2 0 candidate
CLOAD vout 0 2.5p
.temp 27
VIN vinp 0 0.75
RFB vout vinn 1m
.control
op
print v(vout) i(VDD) @m.xdut.mpb[vds] @m.xdut.mpb[vdsat] @m.xdut.mpn[vds] @m.xdut.mpn[vdsat] @m.xdut.mnb[vds] @m.xdut.mnb[vdsat] @m.xdut.mt[vds] @m.xdut.mt[vdsat] @m.xdut.m1[vds] @m.xdut.m1[vdsat] @m.xdut.m2[vds] @m.xdut.m2[vdsat] @m.xdut.m3[vds] @m.xdut.m3[vdsat] @m.xdut.m4[vds] @m.xdut.m4[vdsat] @m.xdut.mbal[vds] @m.xdut.mbal[vdsat]
quit
.endc
.end
