Current-mirror op-amp private fixture
.include p18_cmos_models_ff.inc
.subckt candidate vinp vinn vout vdd vb1 vb2 vss
* Current-mirror OTA with K=2
* - NMOS diff pair + tail IBIAS
* - PMOS diode loads M3/M4
* - Fold 1:1 (M5/M3) and output source K=2 (M6/M4)
* - NMOS mirror K=2 (M8/M7) to output
* Quiescent current ~2.5*Itail; slew current K*Itail

IBIAS tail vss 152u

M1 d1 vinn tail vss nmos w=100u l=0.4u
M2 d2 vinp  tail vss nmos w=100u l=0.4u

M3 d1  d1  vdd vdd pmos w=10u l=0.4u
M4 d2  d2  vdd vdd pmos w=10u l=0.4u
M5 mid d1  vdd vdd pmos w=10u l=0.4u
M6 vout d2 vdd vdd pmos w=20u l=0.4u

M7 mid  mid vss vss nmos w=6u  l=0.4u
M8 vout mid vss vss nmos w=12u l=0.4u

.ends candidate

VDD vdd 0 1.8
VB1 vb1 0 1.4
VB2 vb2 0 0.6
XDUT vinp vinn vout vdd vb1 vb2 0 candidate
CLOAD vout 0 2.5p
.temp 27
VIN vinp 0 PULSE(0.75 1.25 50n 0.1n 0.1n 49.8n 100n)
RFB vout vinn 1m
.control
set wr_vecnames
set wr_singlescale
tran 25p 200n
wrdata transient.dat v(vinp) v(vout)
quit
.endc
.end
