Current-mirror op-amp private fixture
.include p18_cmos_models_ff.inc
.subckt candidate vinp vinn vout vdd vb1 vb2 vss
* 5-transistor current-mirror OTA with mirror ratio K=2
* Ports: vinp vinn vout vdd vb1 vb2 vss
*
* Tail current set by IBIAS (320 uA).
* Diff pair sized 1:K so branch currents match the PMOS mirror ratio K=2
* at balance (zero systematic offset):
*   M1 : M2 = 1 : 2
*   M3 : M4 = 1 : 2
* vinp is the non-inverting input.
*
IBIAS ntail vss 320u
M1    d1   vinp ntail vss nmos w=55.0u l=0.4u
M2    vout vinn ntail vss nmos w=110.0u l=0.4u
M3    d1   d1   vdd  vdd  pmos w=25.0u l=0.4u
M4    vout d1   vdd  vdd  pmos w=50.0u l=0.4u
* Unused bias ports tied only to MOSFET gates
Mdum1 vdd  vb1  vdd  vdd  pmos w=0.4u l=0.4u
Mdum2 vss  vb2  vss  vss  nmos w=0.4u l=0.4u
.ends candidate

VDD vdd 0 1.8
VB1 vb1 0 1.4
VB2 vb2 0 0.6
XDUT vinp vinn vout vdd vb1 vb2 0 candidate
CLOAD vout 0 2.5p
.temp 27
VIN vinp 0 PULSE(0.75 1.25 50n 0.1n 0.1n 49.8n 100n)
RFB vout vinn 1m
.control
set wr_vecnames
set wr_singlescale
tran 25p 200n
wrdata transient.dat v(vinp) v(vout)
quit
.endc
.end
