Current-mirror op-amp private fixture
.include p18_cmos_models_ff.inc
.subckt candidate vinp vinn vout vdd vb1 vb2 vss
* Symmetric current-mirror OTA (K=2)
*   Gm = K * gm_M1/M2
*   SR ~= K * Iss / CL
*   IQ ~= Iss * (1+K)
* Weak cross-coupled PMOS helpers speed inactive-branch cut-off
* during large-signal slew without spoiling phase margin.

* Tail bias current
IBIAS ntail vss 141u

* NMOS differential pair
M1 d1 vinp ntail vss nmos w=46u l=0.4u
M2 d2 vinn ntail vss nmos w=46u l=0.4u

* PMOS diode-connected loads
M3 d1 d1 vdd vdd pmos w=10.5u l=0.4u
M4 d2 d2 vdd vdd pmos w=10.5u l=0.4u

* Weak cross-coupled slew helpers
Mh12 d2 d1 vdd vdd pmos w=2.4u l=0.4u
Mh21 d1 d2 vdd vdd pmos w=2.4u l=0.4u

* PMOS current mirrors, ratio K=2
M5 vout d1 vdd vdd pmos w=21u l=0.4u
M6 d3  d2 vdd vdd pmos w=21u l=0.4u

* NMOS fold mirror, ratio 1:1
M7 d3  d3 vss vss nmos w=14.5u l=0.4u
M8 vout d3 vss vss nmos w=14.5u l=0.4u

.ends candidate

VDD vdd 0 1.8
VB1 vb1 0 1.4
VB2 vb2 0 0.6
XDUT vinp vinn vout vdd vb1 vb2 0 candidate
CLOAD vout 0 2.5p
.temp 27
VIN vinp 0 1
RFB vout vinn 1m
.control
op
print v(vout) i(VDD) @m.xdut.m1[vds] @m.xdut.m1[vdsat] @m.xdut.m2[vds] @m.xdut.m2[vdsat] @m.xdut.m3[vds] @m.xdut.m3[vdsat] @m.xdut.m4[vds] @m.xdut.m4[vdsat] @m.xdut.mh12[vds] @m.xdut.mh12[vdsat] @m.xdut.mh21[vds] @m.xdut.mh21[vdsat] @m.xdut.m5[vds] @m.xdut.m5[vdsat] @m.xdut.m6[vds] @m.xdut.m6[vdsat] @m.xdut.m7[vds] @m.xdut.m7[vdsat] @m.xdut.m8[vds] @m.xdut.m8[vdsat]
quit
.endc
.end
